datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:16])[H:17])([O:5][O:6][H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],140.164
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:6],56.6932
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([C:8]([C:9]([C:10]([H:23])([H:24])[H:25])[H:22])([H:20])[H:21])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([H:18])([H:19])[C:8]([H:20])([H:21])[C:9]1([C:10]([H:23])([H:24])[H:25])[H:22])[H:11],66.5256
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](=[C:9][C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:9](=[C:8]([H:11])[H:12])[C:10]([H:13])([H:14])[H:15])[H:6],3.80744
[O:0][O:1][C:2]([C:3]([C:4]([O:5][H:12])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[O:0]([O:1][C:2]([C:3]([C:4]([O:5][H:12])[H:11])([H:8])[H:9])([H:6])[H:7])[H:10],64.7265
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:18])([H:19])[H:20])([C:12]([H:21])([H:22])[H:23])[O:13][O:14])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:14][O:13][C:10]([C:9]([H:15])([H:16])[H:17])([C:11]([H:18])([H:19])[H:20])[C:12]([H:21])([H:22])[H:23],55.5974104
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15](=[C:16]([H:18])[H:19])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][H:14])([H:12])[H:13])([H:5])([H:6])[H:7].[H:8][C:15](=[C:16]([H:18])[H:19])[H:17],2.63592
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:10]([H:11])([H:12])[H:13],15.4808
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:24]([C:23]([H:27])([H:28])[H:29])([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])[H:13])([H:11])[H:12],7.69856
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20](=[C:21]([H:23])[H:24])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:20](=[C:21]([H:23])[H:24])[H:22])[H:10])([H:8])[H:9],-0.92048
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[c:27]1[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]([H:36])[c:32]1[H:37]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[c:27]1[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]([H:36])[c:32]1[H:37])[H:15])([H:13])[H:14],1.8828
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])[H:9])([H:7])[H:8],8.82824
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]([C:14]([C:15]([C:16]([C:17]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[C:13]([C:14]([C:15]([C:16]([C:17]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19],0.0
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([c:27]1[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]1[H:39])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([c:27]1[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]1[H:39])([H:33])[H:34])[H:14])([H:12])[H:13],42.5513
